US07906528B2
To a solution of 5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridine 6-oxide (220 mg, 0.6 mmol) in toluene (3 mL), is added dimethylsulfate (69 μL, 0.72 mmol), and the mixture is heated to 90° C. for 2 h. All volatiles are removed under reduced pressure. The residue is treated with water (2 mL), 10 M NaOH (20 drops) and KCN (200 mg, 3.1 mmol). The mixture is stirred for 12 h at room temperature. The product is extracted with EtOAc several times. The combined organic extracts are washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Chromatography of the residue on silica gel (Hexane/EtOAc, 1:1) gives 5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridine-7-carbonitrile as a colorless oil: 1H NMR (CDCl3) 7.66 (s, 1H), 7.50 (d, J=3 Hz, 1H), 7.32 (t, J=7 Hz, 1H), 7.16 (d, J=7 Hz, 2H), 6.70 (d, J=3 Hz, 1H), 5.34 (m, 1H), 2.32 (m, 4H), 1.92 (m, 4H), 1.44 (m, 2H), 1.21 (m, 2H), 1.02 (t, J=7 Hz, 6H), 0.95 (t, J=7 Hz, 6H); LCMS m/z 374.27 (3.06 min).

reactant | 5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridine 6-oxide | 0.6 mmol, 220 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=C[N+]1[O-])N(C=C2)C(CCC)CCC | C24H32N2O
reactant | dimethylsulfate | 0.72 mmol, 69 μL | COS(=O)(=O)OC | C2H6O4S
reactant | water | 2 mL | O | H2O
reactant | KCN | 3.1 mmol, 200 mg | [C-]#N.[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | NaOH | 10 M, 20 drops | [OH-].[Na+]
product | 5-(2,6-diethyl-phenyl)-1-(1-propyl-butyl)-1H-pyrrolo[2,3-c]pyridine-7-carbonitrile | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=C(N1)C#N)N(C=C2)C(CCC)CCC | C25H31N3
